US07485283B2
7f. 2-(4-tertbutylbenzylmercapto)-3-methyl-5-fluoro chromen-4-one
2-(4-tertbutylbenzylmercapto)-3-methyl-5-tosyloxy chromen-4-one (200 mg, 0.39 mmol) is dissolved in THF in a 15 mL round bottom flask and potassium fluoride (0.39 mmol) and Kryptofix (0.39 mmol) are added to it. The solution is heated to reflux for 3 hours after which it is cooled to room temperature. The reaction mixture is then concentrated and the crude residue obtained is purified by silica gel flash chromatography to obtain the above product.

reactant | 2-(4-tertbutylbenzylmercapto)-3-methyl-5-tosyloxy chromen-4-one | 0.39 mmol, 200 mg | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC(=C3C(C2C)=O)OS(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C28H28O5S2
reactant | potassium fluoride | 0.39 mmol | [F-].[K+]
solvent | THF | C1CCOC1 | C4H8O
product | 2-(4-tertbutylbenzylmercapto)-3-methyl-5-fluoro chromen-4-one | C(C)(C)(C)C1=CC=C(CSC=2OC3=CC=CC(=C3C(C2C)=O)F)C=C1 | C21H21FO2S
